US06949551B2
Step 2: N-(2-hydroxyethyl)-3-chloro-5-(3,3-dichloroprop-2-enyloxy)-2-[3-(5-trifluoromethylpyrid-2-yloxy)propyloxy]benzamide (No. 33)
0.2 g of 3-chloro-5-(3,3-dichloroprop-2-enyloxy)-2-[3-(5-trifluoromethylpyrid-2-yloxy)-propyloxy]benzoic acid and 0.065 g of carbonyldiimidazole were allowed to react at room temperature in 4 ml of anhydrous toluene for 1.5 hours. 0.027 g of 2-amino-ethanol was then added, and the mixture was stirred at room temperature for another hour. The reaction mixture was concentrated under reduced pressure and purified by column chromatography. Yield: 0.159 g (73%)

reactant | 3-chloro-5-(3,3-dichloroprop-2-enyloxy)-2-[3-(5-trifluoromethylpyrid-2-yloxy)-propyloxy]benzoic acid | 0.2 g | ClC=1C(=C(C(=O)O)C=C(C1)OCC=C(Cl)Cl)OCCCOC1=NC=C(C=C1)C(F)(F)F | C19H15Cl3F3NO5
reactant | carbonyldiimidazole | 0.065 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-amino-ethanol | 0.027 g | NCCO | C2H7NO
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2-hydroxyethyl)-3-chloro-5-(3,3-dichloroprop-2-enyloxy)-2-[3-(5-trifluoromethylpyrid-2-yloxy)propyloxy]benzamide | OCCNC(C1=C(C(=CC(=C1)OCC=C(Cl)Cl)Cl)OCCCOC1=NC=C(C=C1)C(F)(F)F)=O | C21H20Cl3F3N2O5
